US04658037
6-Bromo-2-oxindole
A solution of 17.4 g of dimethyl 2-(4-bromo-2-nitrophenyl)malonate and 4.6 g of lithium chloride in 150 ml of dimethyl sulfoxide was placed in an oil bath at 100° C. After 3 hours, the reaction mixture was

reactant | dimethyl 2-(4-bromo-2-nitrophenyl)malonate | 17.4 g | BrC1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C11H10BrNO6
reactant | lithium chloride | 4.6 g | [Cl-].[Li+]
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 6-Bromo-2-oxindole | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
